US05591752
2-(7-Chloroquinolin-2-yl)methoxy-11-[2-(tetrazol-5-yl)ethylthio]-6,11-dihydrodibenz[b,e]oxepine: (Exemplary compound 192)
1.25 g of trimethyltin azide was added to 1.4 g of 2-(7-chloroquinolin-2-yl)methoxy-11-(2-cyanoethylthio)-6,11-dihydrodibenz[b,e]oxepine dissolved in 40 ml of xylene and the mixture was refluxed under heating for 8.5 hours. After cooling, 1.5 ml of conc. hydrochloric acid was added to the mixture and the mixture was stirred at room temperature for 15 minutes and then adjusted to about pH 4 with a 1N-sodium hydroxide aqueous solution. Crystals precipitated were applied to silica gel column chromatography to obtain 70 mg of the title compound as light orange powder.

reactant | trimethyltin azide | 1.25 g | C[Sn](C)(C)N=[N+]=[N-]
reactant | 2-(7-chloroquinolin-2-yl)methoxy-11-(2-cyanoethylthio)-6,11-dihydrodibenz[b,e]oxepine | 1.4 g | ClC1=CC=C2C=CC(=NC2=C1)COC1=CC2=C(OCC3=C(C2SCCC#N)C=CC=C3)C=C1 | C27H21ClN2O2S
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(7-Chloroquinolin-2-yl)methoxy-11-[2-(tetrazol-5-yl)ethylthio]-6,11-dihydrodibenz[b,e]oxepine | 70 mg | ClC1=CC=C2C=CC(=NC2=C1)COC1=CC2=C(OCC3=C(C2SCCC2=NN=NN2)C=CC=C3)C=C1 | C27H22ClN5O2S
